US06972287B1
Preparation of 2-{4-[4-(3,4-Dichlorophenyl)butyl]phenylamino}benzoic acid
The title compound, mp 98-105° C., was prepared from 4-[4-(3,4-dichlorophenyl)butyl]phenylamine (0.50 g, 1.7 mmol), 2-chlorobenzoic acid (0.24 g, 1.56 mmol), anhydrous potassium carbonate (0.71 g, 5.15 mmol), copper powder (0.21 g, 3.28 mmol), and copper(I) chloride (0.015 g, 0.15 mmol) in dry DMF (5 mL) using the procedure described in Example 1, Step C, Method B.

reactant | 4-[4-(3,4-dichlorophenyl)butyl]phenylamine | 1.7 mmol, 0.50 g | ClC=1C=C(C=CC1Cl)CCCCC1=CC=C(C=C1)N | C16H17Cl2N
reactant | 2-chlorobenzoic acid | 1.56 mmol, 0.24 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | potassium carbonate | 5.15 mmol, 0.71 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | copper | 3.28 mmol, 0.21 g | [Cu] | Cu
catalyst | copper(I) chloride | 0.15 mmol, 0.015 g | [Cu]Cl
product | 2-{4-[4-(3,4-Dichlorophenyl)butyl]phenylamino}benzoic acid | ClC=1C=C(C=CC1Cl)CCCCC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C23H21Cl2NO2
